US08802659B2
6-((trans)-4-tert-butylcyclohexyloxy)-2-naphthonitrile
Compound 2-bromo-6-((trans)-4-tert-butylcyclohexyloxy)naphthalene (2.0 g, 5.55 mmol, 1.0 eq.) and CuCN (742 mg, 8.34 mmol, 1.5 eq.) was dissolved in DMSO (5 mL). Then the mixture was stirred at 125° C. for 15 h. Water was added and the mixture was extracted with ethyl acetate and the organic layer was purified by silica gel column chromatography using PE/EA (10/1) to give product as a slight yellow solid (1.423 g, 82%). EDI-MS (M+1)+: 308.0 1H NMR (400 MHz, CDCl3) δ 8.12 (s, 1H), 7.78-7.73 (m, 2H), 7.54 (dd, 1H), 7.22 (dd, 1H), 7.14 (s, 1H), 4.33-4.30 (m, 1H), 2.29-2.25 (m, 2H), 1.93-1.90 (m, 2H), 1.48-1.26 (m, 2H), 1.25-1.10 (m, 3H), 0.91 (s, 9H).

reactant | 2-bromo-6-((trans)-4-tert-butylcyclohexyloxy)naphthalene | 5.55 mmol, 2.0 g, 1.0 eq. | BrC1=CC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C20H25BrO
reactant | CuCN | 8.34 mmol, 742 mg, 1.5 eq. | C(#N)[Cu]
reactant | Water | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 6-((trans)-4-tert-butylcyclohexyloxy)-2-naphthonitrile | 1.423 g, 82% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C#N | C21H25NO
